US05773530
A solution of 3-(tert-butyldimethylsilyl)oxy-1-(methylsulfonyloxy)cyclohexane (15.9 g) and sodium iodide (8.5 g) in N,N-dimethylformamide (80 ml) was heated at 100° C. for 3 hours with stirring. After cooled to ambient temperature, a reaction mixture was poured into a mixture of ethyl acetate (250 ml) and n-hexane (150 ml), and insoluble material was removed by filtration. Mother liquor was washed in turn with water (100 ml×3), 5% sodium thiosulfate in water (50 ml), and saturated sodium chloride in water (100 ml×2), and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (300 ml) eluting with 10% ethyl acetate in n-hexane to give 3-(tert-butyldimethylsilyl)oxy-1-iodocyclohexane (cis and trans mixture).

reactant | 3-(tert-butyldimethylsilyl)oxy-1-(methylsulfonyloxy)cyclohexane | 15.9 g | [Si](C)(C)(C(C)(C)C)OC1CC(CCC1)OS(=O)(=O)C | C13H28O4SSi
reactant | sodium iodide | 8.5 g | [I-].[Na+]
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
reactant | n-hexane | 150 ml | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 3-(tert-butyldimethylsilyl)oxy-1-iodocyclohexane | [Si](C)(C)(C(C)(C)C)OC1CC(CCC1)I | C12H25IOSi
